US04252723
According to the general procedure, 0.48 g of 3-methylthiooxindole and an equimolar quantity (E.Q.) of sublimed potassium t-butoxide in 200 ml of dry diethyl ether was aerated for 4 h at 0° C. and 20 h at 25° C. Acidification with 0.22 ml of conc. hydrochloric acid in 25 ml of water followed by extraction with ether, drying of the extracts over anhydrous magnesium sulfate, filtration, and evaporation of the filtrate gave an orange solid. Recrystallization from chloroform gave 0.13 g (32% yield) of pure isatin, mp 199°-200° C.

reactant | 3-methylthiooxindole | 0.48 g | CC1C(NC2=CC=CC=C12)=S | C9H9NS
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | isatin | 0.13 g, 32% yield | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
